US08809371B2
Potassium carbonate (27 mg) and tryptamine (32 mg) were added to an N-methylpyrrolidone (1 ml) solution containing 6-(1H-1,2,3-benzotriazol-1-yloxy)-2-(3,5-dimethoxyphenylamino)-5-fluoronicotinamide (41 mg), followed by stirring at 90° C. for 7 hours. The reaction mixture was cooled to room temperature, and potassium carbonate (14 mg) and tryptamine (16 mg) were added, followed by stirring at 90° C. for 7 hours. The reaction mixture was cooled to room temperature, and then water, sodium chloride, and ethyl acetate were added. The organic layer was collected and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (chloroform:methanol=10:0 to 20:1), diisopropylether was added, solid matter was collected by filtration, and a light brown solid of 2-(3,5-dimethoxyphenylamino)-5-fluoro-6-(2-(1H-indole-3-yl)ethylamino)nicotinamide (19 mg) was thus obtained.

reactant | Potassium carbonate | 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tryptamine | 32 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 6-(1H-1,2,3-benzotriazol-1-yloxy)-2-(3,5-dimethoxyphenylamino)-5-fluoronicotinamide | 41 mg | N1(N=NC2=C1C=CC=C2)OC2=NC(=C(C(=O)N)C=C2F)NC2=CC(=CC(=C2)OC)OC | C20H17FN6O4
reactant | potassium carbonate | 14 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tryptamine | 16 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(3,5-dimethoxyphenylamino)-5-fluoro-6-(2-(1H-indole-3-yl)ethylamino)nicotinamide | 19 mg | COC=1C=C(C=C(C1)OC)NC1=C(C(=O)N)C=C(C(=N1)NCCC1=CNC2=CC=CC=C12)F | C24H24FN5O3
